US05117027
124 g (1 mol) of potassium methacrylate were admixed with 198.5 g (1 mol) of 3-chloropropyltrimethoxysilane, 2.7 g of 1-(3'-trimethoxysilylpropyl)-4-dimethylaminopyridinium chloride and 0.5 g of N,N'-diphenyl-p-phenylamine, and the mixture was heated to 135° C. while stirring. After 1 hour at this temperature the mixture was cooled and the potassium chloride which had precipitated was filtered off and washed with 60 g of methanol. The methanol was evaporated from the combined filtrates, and the residue was distilled under reduced pressure. 225 g of 3-methacryloxypropyltrimethoxysilane having a boiling point of 82° C. (0.4 mbar) were obtained. The yield was 90.7% of theory, based on the amount of potassium methacrylate which was used. The purity of the product was 99.0%. In the gas chromatogram only traces of 4-dimethylaminopyrrdine were detectable. A 2% solution of the product in water with a pH of 4 contained no oily separation of any kind.

reactant | potassium methacrylate | 1 mol, 124 g | C(C(=C)C)(=O)[O-].[K+]
reactant | 3-chloropropyltrimethoxysilane | 1 mol, 198.5 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
catalyst | 1-(3'-trimethoxysilylpropyl)-4-dimethylaminopyridinium chloride | 2.7 g | [Cl-].CO[Si](CCC[N+]1=CC=C(C=C1)N(C)C)(OC)OC
product | 3-methacryloxypropyltrimethoxysilane | 225 g, yield was 90.7% | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
